US05102892
A mixture of 54 g (=215 mmol) of methyl 4-chloro-8-methoxyquinoline-2-carboxylate, 33.7 g (=278 mmol) of 2-methylbenzylamine and 243 g (=2.58 mmol) of phenol was heated at 140° C. in an autoclave for 4 hours. The cooled reaction mixture was added dropwise to 4 1 of ethyl acetate, and the resulting precipitate was filtered off with suction. The solid was dissolved in 1 1 of THF and the pH was adjusted to 10 with 10% NaOH. The mixture was stirred at 50° C. for 1 hour, maintaining the pH constant, cooled to 10° C. and adjusted to pH 5-6 with dilute HCl. This resulted in the product crystallizing. 18.85 g of 8-methoxy-4-(2-methylbenzylamino)quinoline-2-carboxylic acid of melting point 276-277° C. were obtained.

reactant | methyl 4-chloro-8-methoxyquinoline-2-carboxylate | 215 mmol, 54 g | ClC1=CC(=NC2=C(C=CC=C12)OC)C(=O)OC | C12H10ClNO3
reactant | 2-methylbenzylamine | 278 mmol, 33.7 g | CC1=C(CN)C=CC=C1 | C8H11N
reactant | phenol | 2.58 mmol, 243 g | C1(=CC=CC=C1)O | C6H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-methoxy-4-(2-methylbenzylamino)quinoline-2-carboxylic acid | 18.85 g | COC=1C=CC=C2C(=CC(=NC12)C(=O)O)NCC1=C(C=CC=C1)C | C19H18N2O3
